US06133271
Following the procedure of Example 97, the reaction of 1,2,4-triazole with 2-chloro-5,6-dimethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-(1,2,4-triazol-1-yl)-5,6-dimethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | 2-chloro-5,6-dimethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2C)C)NCC2=CC=C(C=C2)F | C15H13ClFN3S
product | 2-(1,2,4-triazol-1-yl)-5,6-dimethyl-4-(4-fluorobenzylamino)-thieno-[2,3-d]-pyrimidine | N1(N=CN=C1)C=1N=C(C2=C(N1)SC(=C2C)C)NCC2=CC=C(C=C2)F | C17H15FN6S
